US07754742B2
Cyclopropyl-(2,4-dihydroxy-3-trifluoromethyl-phenyl)-methanone
Dissolve (2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-cyclopropyl-methanone (881 mg, 1.86 mmol) in anhydrous tetrahydrofuran (15 mL) and add palladium on carbon (594 mg, 557 μmole). Degas (3×) and hydrogenate at 138 kPa (guage) under hydrogen atmosphere for 4 hrs. Filter the reaction mixture through filter cel and concentrate to provide the crude title compound (470 mg, 1.91 mmol). MS (m/z): 245 (M−1).

reactant | (2,4-bis-benzyloxy-3-trifluoromethyl-phenyl)-cyclopropyl-methanone | 1.86 mmol, 881 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC=CC=C1)C(=O)C1CC1 | C25H21F3O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 557 μmole, 594 mg | [Pd] | Pd
product | Cyclopropyl-(2,4-dihydroxy-3-trifluoromethyl-phenyl)-methanone | 1.91 mmol, 470 mg | C1(CC1)C(=O)C1=C(C(=C(C=C1)O)C(F)(F)F)O | C11H9F3O3
